US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-5-fluoro-N-(1H-pyrrol-1-yl)-4-pyrimidineamine was reacted with 3-aminophenol to produce 5-fluoro-N2-(3-hydroxyphenyl)-N4-(1H-pyrrol-1-yl)-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 10.68 (s, 1H), 9.04 (s, 1H), 9.00 (s, 1H), 8.08 (d, 1H, J=4.11 Hz), 7.01 (d, 1H, J=8.2 Hz), 6.84–6.75 (m, 4H), 6.22 (dd, 1H, J=1.2 and 8.2 Hz), 6.08 (t, 2H, J=2.3 Hz). LCMS: ret. time: 16.24 min.; purity: 94%; MS (m/e): 286 (MH+).

reactant | 2-chloro-5-fluoro-N-(1H-pyrrol-1-yl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NN1C=CC=C1)F | C8H6ClFN4
reactant | 3-aminophenol | NC=1C=C(C=CC1)O | C6H7NO
product | 5-fluoro-N2-(3-hydroxyphenyl)-N4-(1H-pyrrol-1-yl)-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NC1=CC(=CC=C1)O)NN1C=CC=C1 | C14H12FN5O
